US07666888B2
5-(2-Chlorophenyl)-4-{[3-(4-methoxyphenyl)pyrrolidin-1-yl]carbonyl}isoxazole
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 3-(4-methoxyphenyl)pyrrolidine oxalat (16.0 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (5.4 mg). Calcd for C21H19ClN2O3: 382.1084, found 382.1083.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 3-(4-methoxyphenyl)pyrrolidine oxalat | 0.060 mmol, 16.0 mg | C(C(=O)O)(=O)O.COC1=CC=C(C=C1)C1CNCC1
product | 5-(2-Chlorophenyl)-4-{[3-(4-methoxyphenyl)pyrrolidin-1-yl]carbonyl}isoxazole | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C1=CC=C(C=C1)OC | C21H19ClN2O3
